US04489003
A mixture of 6.9 g (0.02 mmol) of ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate, 100 ml of allyl alcohol and 0.5 g of potassium cyanide is heated to boiling ii under reflux for 4 hours, then concentrated to half of the volume, 50 ml of allyl alcohol are added and the resulting mixture is heated to boiling under reflux for a further 10 hours. The mixture is evaporated, the residue is dissolved in chloroform, the chloroform solution is washed with water, the chloroform phase is dried over magnesium sulphate and evaporated. The residue is chromatographed on silica gel while eluting with ethyl acetate and then crystallized from ethyl acetate/hexane. There is obtained allyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 122-123°.

reactant | ethyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 0.02 mmol, 6.9 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC)CCC1)=O | C17H16ClN3O3
reactant | potassium cyanide | 0.5 g | [C-]#N.[K+]
solvent | allyl alcohol | 100 ml | C(C=C)O | C3H6O
product | allyl (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC=C)CCC1)=O | C18H16ClN3O3
